US07691882B2
4-Chloro-2-chloromethyl-pyridine
To a mixture of (4-chloro-pyridine-2-yl)-methanol (146.8 mg, 1.0 mmol) described in Manufacturing Example 51-1-1 and toluene (3 mL) was added thionyl chloride (112 μL, 1.53 mmol) on an ice bath, which was stirred for 1 hour 15 minutes at room temperature. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=4:1) to obtain the title compound (97 mg, 59%).

reactant | (4-chloro-pyridine-2-yl)-methanol | 1.0 mmol, 146.8 mg | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | thionyl chloride | 1.53 mmol, 112 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-chloromethyl-pyridine | 97 mg, 59% | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
